US04889857
By the use of 2-chloromethyl-4-benzylmorpholine and morpholine, the reaction is similarly carried out as Reference example 2 to give 2-(morpholinomethyl)morpholine dihydrochloride as white crystals, melting at 297°-299° C. with decompostion.

reactant | 2-chloromethyl-4-benzylmorpholine | ClCC1CN(CCO1)CC1=CC=CC=C1 | C12H16ClNO
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 2-(morpholinomethyl)morpholine dihydrochloride | Cl.Cl.O1CCN(CC1)CC1CNCCO1 | InChI=1S/C9H18N2O2.2ClH/c1-4-13-9(7-10-1)8-11-2-5-12-6-3-11;;/h9-10H,1-8H2;2*1H
